US06608089B2
Preparation of 7-propynyloxyflavone
A mixture of 7-hydroxyflavone (2.38 g, 0.01 mol), K2CO3 (2.8 g, 0.02 mol), Kl (0.166 g, 0.001 mol), propargyl bromide (1.78 g, 0.015 mol) and acetone (100 mL) was refluxed 10 h and hot filtered. The solvent was evaporated and the residue was crystallized by toluene. This yields 2.58 g of a product with the following characteristics: m.p. 199-200° C.; 1H NMR (CDC13) δ: 2.6 (m, 1H), 4.8 (s, 2H), 6.75-8.18 (m, 9H).

reactant | 7-hydroxyflavone | 0.01 mol, 2.38 g | OC1=CC=C2C(C=C(OC2=C1)C1=CC=CC=C1)=O | C15H10O3
reactant | K2CO3 | 0.02 mol, 2.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | propargyl bromide | 0.015 mol, 1.78 g | C(C#C)Br | C3H3Br
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 7-propynyloxyflavone | C(#CC)OC1=CC=C2C(C=C(OC2=C1)C1=CC=CC=C1)=O | C18H12O3
